US05808062
4-Hydroxy-3-[(naphthalen-1-yl)thio]-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method A using 1-phenyl-1-(trimethylsilyloxy)ethylene (1.95 g, 10.14 mmol) and diethyl ester of [(1-naphthyl)thio]propanedioic acid (1.61 g, 5.07 mmol). m.p. 242°-243° C.; 1H NMR (400 MHz, DMSO-d6) δ 6.83 (s, 1H), 7.19 (d, 1H)., 7.39 (t, 1H), 7.64-7.42 (m, 5H), 7.69 (d, 1H), 7.83 (m, 2H), 7.94 (d, 1H), 8.28 (d, 1H).

reactant | 1-phenyl-1-(trimethylsilyloxy)ethylene | 10.14 mmol, 1.95 g | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [(1-naphthyl)thio]propanedioic acid | 5.07 mmol, 1.61 g | C1(=CC=CC2=CC=CC=C12)SC(C(=O)O)C(=O)O | C13H10O4S
product | 4-Hydroxy-3-[(naphthalen-1-yl)thio]-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SC1=CC=CC2=CC=CC=C12 | C21H14O3S
